US04841045
A mixture of methyl 3-benzyl-1,2,3,4,5,6-hexahydroazepino (4,5-b) indole-5-carboxylate (1.336 g, 4.0 mmol), 2-hydroxytetrahydropyran (0.980 g, 8.2 mmol), toluene (30 mL) and ether saturated with HCl gas (10 drops) was heated under a nitrogen atmosphere at 110° C. for 5 h. The reaction mixture was cooled, diluted with 15 mL of methanol and acidified with conc. hydrochloric acid. The reaction mixture was stirred for 12 h at 20° C., poured into 50 mL of water and made strongly basic with ammonium hydroxide. The toluene layer was separated and the aqueous portion extracted three times with 25 mL of dichloromethane. The combined organic solutions were washed three times with 25 mL of saturated brine, dried over sodium sulfate and concentrated at 50° C. under vacuum to provide 1.67 g (100%) of methyl 3-benzyl-1,2,3,3a,4,5-hexahydro-4-(3-hydroxypropyl)-7H-pyrrolo(2,3-d)carbazole-6-carboxylate, identical in spectroscopic properties and TLC Rf value to the product obtained in Example 1.

reactant | methyl 3-benzyl-1,2,3,4,5,6-hexahydroazepino (4,5-b) indole-5-carboxylate | 4.0 mmol, 1.336 g | C(C1=CC=CC=C1)N1CC(C=2NC=3C=CC=CC3C2CC1)C(=O)OC | C21H22N2O2
reactant | 2-hydroxytetrahydropyran | 8.2 mmol, 0.980 g | OC1OCCCC1 | C5H10O2
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | HCl | 10 drops | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 3-benzyl-1,2,3,3a,4,5-hexahydro-4-(3-hydroxypropyl)-7H-pyrrolo(2,3-d)carbazole-6-carboxylate | 1.67 g, 100% | C(C1=CC=CC=C1)N1CCC23C1C(CC(=C3NC=3C=CC=CC23)C(=O)OC)CCCO | C26H30N2O3
